US06239131B1
Preparation of 1-(2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-benzyloxycarbonylphenyl)urea
Diphenylphosphoryl azide (938 mg) and triethylamine (354 mg) were added to a solution of monobenzyl isophthalate (874 mg) in anhydrous tetrahydrofuran (30 ml), the mixture was stirred at 100° C. for one hour and 30 minutes. The resultant mixture was allowed to cool, 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (680 mg) was added thereto, the mixture was stirred at room temperature for one hour. The reaction mixture was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:3), to thereby obtain 890 mg of the title compound.

reactant | Diphenylphosphoryl azide | 938 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 354 mg | C(C)N(CC)CC | C6H15N
reactant | monobenzyl isophthalate | 874 mg | C(C1=CC(C(=O)[O-])=CC=C1)(=O)OCC1=CC=CC=C1
reactant | 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 680 mg | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)N)=O | C21H31N3O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-benzyloxycarbonylphenyl)urea | 890 mg | O=C1C(CN(C2=C(N1)C=CC=C2)C2CCCCC2)NC(=O)NC2=CC(=CC=C2)C(=O)OCC2=CC=CC=C2 | C30H32N4O4
